US05760021
To a solution of 2.36 g (0.01 mole) of ethyl 2-diethoxyphosphinylpropenoate (J. Org. Chem., 43, 1259 (1978)) in 150 ml of methylene chloride is added 50 ml of 0.5 N aqueous NaHCO3 solution. The mixture is stirred rapidly at ambient temperature, while meta-chloroperbenzoic acid (0.01 mole) is slowly added. After stirring for about 6 hours longer, the methylene chloride layer is separated off and is washed with 0.5 N NaOH solution and then with water. It is dried with Na2SO4 and is evaporated to dryness to give ethyl 2-diethoxyphosphinyloxiranecarboxylate as an oil.

reactant | ethyl 2-diethoxyphosphinylpropenoate | 0.01 mole, 2.36 g | C(C)OP(=O)(C(C(=O)OCC)=C)OCC | C9H17O5P
reactant | NaHCO3 | 0.5 N, 50 ml | C(=O)(O)[O-].[Na+]
reactant | meta-chloroperbenzoic acid | 0.01 mole | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-diethoxyphosphinyloxiranecarboxylate | C(C)OP(=O)(C1(OC1)C(=O)OCC)OCC | C9H17O6P
